US04080323
3,5-Dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one
Sodium nitrite, 5.9 g (0.086 moles), was added in 3 portions over a period of 30 minutes to a stirred solution of 18.9 g (0.071 m) of 3,5-dihydro-2-methylamino-5-phenyl-4H-1,5-benzodiazepin-4-one in 200 ml of acetic acid. After the addition was completed, the mixture was stirred for 20 minutes at room temperature and was then diluted with water and extracted with methylene chloride. The methylene chloride extracts were combined, washed with saturated sodium bicarbonate solution, dried and evaporated. The residue was crystallized from ether to yield product. Additional material was obtained from the concentrated mother liquors. For analysis, the material was recrystallized from ethyl acetate/hexane, mp 139°-140° C.

reactant | Sodium nitrite | N(=O)[O-].[Na+]
reactant | 3,5-dihydro-2-methylamino-5-phenyl-4H-1,5-benzodiazepin-4-one | 18.9 g | CNC=1CC(N(C2=C(N1)C=CC=C2)C2=CC=CC=C2)=O | C16H15N3O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3,5-Dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one | N(=O)CNC=1CC(N(C2=C(N1)C=CC=C2)C2=CC=CC=C2)=O | C16H14N4O2
